US08748656B2
To a stirred solution of sodium azide (3.5 g, 50 mmol) in water (25 mL) was added a solution of 1,3-propane sultone (6.1 g, 50 mmol) in acetone (25 mL). The reaction mixture was stirred at room temperature for 24 h then concentrated to dryness. The resulting solid was suspended in diethyl ether (100 mL) and stirred at reflux for 1 h. The suspension was cooled to room temperature and the solid was collected by filtration, washed with acetone and diethyl ether, and dried under vacuum, affording of 3-azido-1-propanesulfonic acid (7.6 g, 80%).

reactant | sodium azide | 50 mmol, 3.5 g | [N-]=[N+]=[N-].[Na+]
reactant | 1,3-propane sultone | 50 mmol, 6.1 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | water | 25 mL | O | H2O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-azido-1-propanesulfonic acid | 7.6 g, 80% | N(=[N+]=[N-])CCCS(=O)(=O)O | C3H7N3O3S
